Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___.
 
Chief Complaint:
Opioid overdose
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with a history of opioid use disorder, and history of 
multiple overdoses who presents with non-cardiogenic pulmonary 
edema in the setting of opiate abuse and getting Narcan. 

The patient overdosed on Fentanyl yesterday and found 
unconscious by his family. EMG gave him narcan on arrival and 
was transferred to the ___ where he was observed for 4 hours with 
improvement in his MS. ___ that ___ visit, he had some 
sensation of fluids in his lungs and was coughing. However, that 
sensation resolved by the end of the ___ stay. He was discharged 
home and after 15 hr was found down by family again who gave him 
2 dose of IN narcan and still was unresponsive. EMS came and 
gave him 10 mg of Narcan. He was more arousable and Satting ___ 
on none rebreather and transferred to the ___

On presentation was sating 97% on NR tachycardic to 107. Initial 
labs notable for WBC= 21.0. Hb 15, Na= 135, K= 4.4, Cr = 1.9. He 
complained of increasing shoftness of breath and was placed on 
BiPAP with slight improvement in his symptoms. A trial of BiPAP 
weaning was attempted but the patient was very symptomatic and 
desated to low 90’s on NC. The BiPAP was reapplied and since 
there were no ICU beds at OSH he was transferred to the ___ 
for further management. 

On arrival to the ___ ___, he had no fevers, chills, CP, 
vomiting, diarrhea, urinary symptoms.

Temp 98.6 HR 98 BP 146/73 RR 14 POx 100% Bipap

Exam notable for coarse breath sounds bilaterally. No lower 
extremity edema. Soft and non-tender abdomen.

A trial of BiPAP weaning was attempted but the patient was very 
symptomatic with agitation and sensation that he is suffocating.

Labs significant for: 
pH 7.36 pCO2 59 pO2 83 HCO3 35 
BUN 22
Creatinine 1.3 
WBC 27.7

No medications were given.

Imaging notable for:  Bilateral pulmonary edema. 

He was transferred to the MICU for continued BiPAP requirement. 
 
Past Medical History:
Asthma
Opioid use disorder
Alcohol use disorder
 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
GENERAL: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
NECK: supple, JVP not elevated, no LAD  
LUNGS: bilateral crackles on inspiration, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  

DISCHARGE PHYSICAL EXAM
=======================
VITALS: ___ 0753 Temp: 98.0 PO BP: 96/61 L Lying HR: 62 RR:
18 O2 sat: 97% O2 delivery: Ra 
GENERAL: Well-developed, well-nourished male sitting in a chair
near the window.
HEENT: Normocephalic, atraumatic. PERRLA, EOMI. Sclera 
anicteric.
No oropharyngeal lesions.
CV: RRR, normal S1/S2, no murmurs, rubs, or gallops
RESP: CTAB, no wheezes, rales, or rhonchi
GI: Soft, nontender, nondistended. NABS. No rebound or guarding.
MSK: No ___ edema
SKIN: No lesions or rashes
NEURO: CNII-XII grossly intact. No focal deficits. Answering all
questions appropriately. 
PSYCH: Appropriate mood and affect.
 
Pertinent Results:
ADMISSION LABS
===============
___ 06:31AM BLOOD WBC-27.7* RBC-5.57 Hgb-15.1 Hct-45.8 
MCV-82 MCH-27.1 MCHC-33.0 RDW-13.2 RDWSD-39.0 Plt ___
___ 06:31AM BLOOD Glucose-117* UreaN-22* Creat-1.3* Na-137 
K-4.9 Cl-91* HCO3-28 AnGap-18
___ 06:00AM BLOOD Calcium-8.7 Phos-2.6* Mg-2.1
___ 06:31AM BLOOD CK(CPK)-2885*
___ 06:36AM BLOOD ___ pO2-83* pCO2-59* pH-7.36 
calTCO2-35* Base XS-5

DISCHARGE LABS
================
___ 06:00AM BLOOD WBC-12.4* RBC-4.76 Hgb-12.9* Hct-38.9* 
MCV-82 MCH-27.1 MCHC-33.2 RDW-12.9 RDWSD-38.6 Plt ___
___ 06:00AM BLOOD Glucose-101* UreaN-12 Creat-0.9 Na-135 
K-3.8 Cl-92* HCO3-31 AnGap-12
___ 06:00AM BLOOD Calcium-8.7 Phos-2.6* Mg-2.1

IMAGING STUDIES
================
CXR ___
The appearances uncharacteristic for pulmonary edema.  The 
differential 
diagnosis would include viral pneumonia and inhalation injury.  
Correlation with history is recommended. 

CXR ___
Persisting, but decreased extent of interstitial abnormalities, 
differential considerations are unchanged including pulmonary 
edema, viral pneumonia and inhalation injury.

MICROBIOLOGY
============
Blood and urine cultures negative at time of discharge.
 
Brief Hospital Course:
___ with asthma, opioid use disorder, alcohol use disorder, and 
recent discharge from OSH ___ after a fentanyl dose presented to 
___ following a fentanyl overdose. He was found down by family 
and given Narcan. Hospital course complicated by hypoxemic 
respiratory failure requiring brief MICU admission for BiPAP.

# Hypoxemic respiratory failure
CXR concerning for pulmonary edema that is suspected to have 
been from inhalation injury vs. aspiration event vs. Narcan 
administration. Patient was initially admitted to MICU for BiPAP 
given his respiratory failure but did not require intubation. On 
the day after admission, he was weaned off of BiPAP and 
transferred to the medical floor for further management. On the 
medical floor, he was weaned to room air. Notably, the patient 
had a fever the night of transfer to 101.2 associated with a WBC 
of 27.7, for which CAP treatment with ceftriaxone and 
azithromycin were initiated. The following morning, the 
patient's WBC downtrended to 12.9 and he had no recurrences of 
his fever, so antibiotics were discontinued. He remained 
afebrile after antibiotic discontinuation.

# Fentanyl overdose s/p Narcan
There was some concern by family that this may have been a 
suicide attempt, however the patient adamantly refused this 
notion. He was assessed by psychiatry who felt that 1:1 sitter 
was not necessary. They suggested consider naltrexone, suboxone, 
or methadone for pharmacologic treatment of his opioid use 
disorder. This can be considered in the outpatient setting.

# ___
Presented with Cr reportedly 1.7 at OSH, downtredned to 0.9 
while at ___. Suspect that it was likely prerenal, though the 
possibility of rhabdomyolysis in the setting of a elevated CK 
(2885) was also considered. IVF were deferred in the setting of 
pulmonary edema. UA was negative for myoglobinuria. His Cr prior 
to discharge was 0.9.

Transitional Issues
=====================
[ ] Opioid use disorder treatment - as above. Patient will 
likely need to be plugged in with OBAT as outpatient for 
consideration of pharmacologic treatment of his opioid use 
disorder.
[ ] Discharged w/ prescription for Narcan
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler 2 PUFF IH Q4H:PRN Dyspnea 

 
Discharge Medications:
1.  Narcan (naloxone) 4 mg/actuation nasal X2 PRN 
RX *naloxone [Narcan] 4 mg/actuation 1 spray intranasally Every 
___ minutes Disp #*1 Spray Refills:*3 
2.  Albuterol Inhaler 2 PUFF IH Q4H:PRN Dyspnea  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnoses
==================
Opioid overdose
Hypoxemic respiratory failure
___

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ from ___.

WHY WAS I ADMITTED?
===================
- You overdosed on fentanyl and required Narcan.
- You were having difficulty breathing from extra fluid in your 
lungs.

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
=============================================
- We treated your difficulty breathing with extra oxygen 
supplied through a mask.
- Your kidney's were slightly damaged when you came in, but 
recovered well without any medications.

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?
=============================================
- We connected you with a primary care doctor as below.
- Continue to work on finding a program to help with your opioid 
use disorder.

It was a pleasure caring for you!

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___